US09126970B2
Step a): tert-Butyl 7-(3′-benzoylbiphenyl-3-yl)-12,12-dimethyl-12H-10-azaindeno[2,1-b]fluorene-10-carboxylate
16.8 g (33.0 mmol) of tert-butyl 12,12-dimethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-12H-10-azaindeno[2,1-b]fluorene-10-carboxylate, 13.4 g (40 mmol) of (3′-bromobiphenyl-3-yl)phenylmethanone and 11.6 g of sodium carbonate are suspended in 900 ml of dioxane, 900 ml of toluene and 400 ml of water. 4.2 g (3.6 mmol) of Pd(PPh3)4 are added to this suspension. The reaction mixture is heated under reflux for 7 h. After cooling, the precipitated solid is filtered off with suction and washed with water and ethanol and dried. The residue is extracted with hot toluene and recrystallised from toluene. Yield: 14.7 g (23 mmol), 70% of theory.

reactant | tert-butyl 12,12-dimethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-12H-10-azaindeno[2,1-b]fluorene-10-carboxylate | 33.0 mmol, 16.8 g | CC1(C2=CC=CC=C2C=2C1=CC=1N(C3=CC=C(C=C3C1C2)B2OC(C(O2)(C)C)(C)C)C(=O)OC(C)(C)C)C | C32H36BNO4
reactant | (3′-bromobiphenyl-3-yl)phenylmethanone | 40 mmol, 13.4 g | BrC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)C1=CC=CC=C1 | C19H13BrO
reactant | sodium carbonate | 11.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 900 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 3.6 mmol, 4.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 400 ml | O | H2O
product | tert-Butyl 7-(3′-benzoylbiphenyl-3-yl)-12,12-dimethyl-12H-10-azaindeno[2,1-b]fluorene-10-carboxylate | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C=1C=C2C=3C=C4C(=CC3N(C2=CC1)C(=O)OC(C)(C)C)C(C1=CC=CC=C14)(C)C | C45H37NO3
